US06613942B1
4-(2,3-Epoxypropanoxy)-1-naphthaldehyde:
To a solution of 4-hydroxy-1-naphthaldehyde (1 g, 5.8 mmol) in DMSO (20 mL) was added K2CO3(1 g, 7.2 mmol ). The mixture was stirred at room temperature for 30 min, and then 2,3-epoxypropyl bromide (0.96 g, 7 mmol) was added. After stirring for 24 hr, water (100 mL) was added. The mixture was extracted with ethyl acetate (3×80 mL), dried (MgSO4), and concentrated to give a brown solid (1.23 g, 93%).

reactant | 4-hydroxy-1-naphthaldehyde | 5.8 mmol, 1 g | OC1=CC=C(C2=CC=CC=C12)C=O | C11H8O2
reactant | K2CO3 | 7.2 mmol, 1 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 2,3-epoxypropyl bromide | 7 mmol, 0.96 g | O1C(CBr)C1 | C3H5BrO
reactant | water | 100 mL | O | H2O
solvent | DMSO | 20 mL | CS(=O)C | C2H6OS
product | 4-(2,3-Epoxypropanoxy)-1-naphthaldehyde | 1.23 g, 93% | O1C(COC2=CC=C(C3=CC=CC=C23)C=O)C1 | C14H12O3
